US06969710B2
Synthesis of N-[5-(4-methyl-1-piperazinyl)-2-nitrophenyl]benzenesulfonamide (Scheme 2, Method 3)
N-(5-fluoro-2-nitrophenyl)benzenesulfonamide (2×0.50 g, 1.688 mmol) was treated with N-methyl-piperazine (2×4.65 g, 45.6 mmol) and put in two pyrex tubes and sealed. Each tube was put in a LabWell MW-10 microwave oven for 2 min at 50 W. The reaction mixtures were combined and poured into 0.5 M NaOH (aq) and extracted with CH2Cl2, dried (MgSO4) and concentrated to give 0.99 g, (2.63 mmol) in 78% yield as a yellow solid. Anal (C17 H20 N4 O4 S) C, H, N, S; MS (posES-FIA) m/z=found: 377.4. Calcd: 376.12.

reactant | N-(5-fluoro-2-nitrophenyl)benzenesulfonamide | 1.688 mmol, 0.50 g | FC=1C=CC(=C(C1)NS(=O)(=O)C1=CC=CC=C1)[N+](=O)[O-] | C12H9FN2O4S
reactant | N-methyl-piperazine | 45.6 mmol, 4.65 g | CN1CCNCC1 | C5H12N2
reactant | NaOH | 0.5 M | [OH-].[Na+]
product | N-[5-(4-methyl-1-piperazinyl)-2-nitrophenyl]benzenesulfonamide | 78% yield | CN1CCN(CC1)C=1C=CC(=C(C1)NS(=O)(=O)C1=CC=CC=C1)[N+](=O)[O-] | C17H20N4O4S
